US07056917B2
(A) 4-Methoxy-2-pyridinecarbonitrile
4-Methoxypyridine-N-oxide hydrate (1 g, 6.99 mmol) dissolved in dichloromethane (4 ml) was added with trimethylsilyl cyanide (1 ml, 7.69 mmol) and subsequently added dropwise with N,N-dimethylcarbamoyl chloride (0.8 ml, 9.09 mmol) under ice cooling. The reaction solution was warmed to room temperature, stirred for 1 hour, and then added further with trimethylsilyl cyanide (0.2 ml, 1.40 mmol). The reaction solution was stirred for 19 hours, then added with 10% potassium carbonate (2 ml). The mixture was diluted with ethyl acetate, washed with saturated brine and dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting crystals were washed with hexane to obtain 560 mg (60%) of the title compound as pink crystals without purification.

reactant | 4-Methoxypyridine-N-oxide hydrate | 6.99 mmol, 1 g | O.COC1=CC=[N+](C=C1)[O-]
reactant | trimethylsilyl cyanide | 7.69 mmol, 1 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 9.09 mmol, 0.8 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilyl cyanide | 1.40 mmol, 0.2 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | potassium carbonate | 2 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methoxy-2-pyridinecarbonitrile | 560 mg, 60% | COC1=CC(=NC=C1)C#N | C7H6N2O
